US20010056109A1
4-(3-Phenyl-3H-inden-1-yl)-1H-imidazole
5-(3-Phenyl-3H-inden-1-yl)-1H-imidazole-1-sulfonic acid dimethylamide (158 mg, 0.43 mmol) in 5 ml of a 1.5 M HCl solution was refluxed for 1.5 hr. The reaction mixture was made basic and then extracted with ethyl acetate. The organic phase was washed with water and dried. The solvent was removed under reduced pressure. The crude 4-(3-phenyl-3H-inden-1-yl)-1H-imidazole which was the mixture of isomers (the ratio 75:25) was purified by flash chromatography (elution with dichloromethane-methanol 9.75:0.25).

reactant | 5-(3-Phenyl-3H-inden-1-yl)-1H-imidazole-1-sulfonic acid dimethylamide | 0.43 mmol, 158 mg | CN(S(=O)(=O)N1C=NC=C1C1=CC(C2=CC=CC=C12)C1=CC=CC=C1)C | C20H19N3O2S
reactant | HCl | 1.5 M | Cl | ClH
product | 4-(3-Phenyl-3H-inden-1-yl)-1H-imidazole | C1(=CC=CC=C1)C1C=C(C2=CC=CC=C12)C=1N=CNC1 | C18H14N2
